US05679746
3.0 g (20 mmol) of 1-bromo-7-fluoroheptane was dripped into a mixture of 0.5 g of magnesium (21 mmol) and 50 ml of THF to obtain Grignard's reagent. This reagent was then dripped into a 50 ml THF solution of 4.9 g (20 mmol) of 4-(4-chloro-4-silacyclohexyl) -1.2-difluorobenzene to obtain 4-(4-(7-fluoroheptyl)-4-silacyclohexyl)-1,2-difluorobenzene.

reactant | 1-bromo-7-fluoroheptane | 20 mmol, 3.0 g | BrCCCCCCCF | C7H14BrF
reactant | magnesium | 21 mmol, 0.5 g | [Mg] | Mg
reactant | 4-(4-chloro-4-silacyclohexyl) -1.2-difluorobenzene | 20 mmol, 4.9 g | Cl[SiH]1CCC(CC1)C1=CC(=C(C=C1)F)F | C11H13ClF2Si
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(4-(7-fluoroheptyl)-4-silacyclohexyl)-1,2-difluorobenzene | yield 93% | FCCCCCCC[SiH]1CCC(CC1)C1=CC(=C(C=C1)F)F | C18H27F3Si
